US06399641B1
9,10-Dihydro-anthracene-9-carboxylic acid (2-ethyl-2H-tetrazol-5-yl)-amide
The title compound, white solid, m.p. 206-207° and MS: (neg. ions): m/e=318.3 (M+−H) was prepared in accordance with the general method of example 1 from 5-amino-2-ethyl-2H-tetrazole and 9,10-dihydro-anthracene-9-carbonyl chloride.

reactant | 5-amino-2-ethyl-2H-tetrazole | NC=1N=NN(N1)CC | C3H7N5
reactant | 9,10-dihydro-anthracene-9-carbonyl chloride | C1=CC=CC=2CC3=CC=CC=C3C(C12)C(=O)Cl | C15H11ClO
product | 9,10-Dihydro-anthracene-9-carboxylic acid (2-ethyl-2H-tetrazol-5-yl)-amide | C(C)N1N=C(N=N1)NC(=O)C1C2=CC=CC=C2CC=2C=CC=CC12 | C18H17N5O
